US08629160B2
Iodomethane (7.1 μl, 0.11 mmol) was added to a solution of ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate (C65) (50 mg, 0.11 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was triturated with Et2O, filtered and dried. The product was purified by preparative HPLC (Eluent: CH3CN/H2O) to obtain (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-methyl-1-azoniabicyclo[2.2.2]octane iodide (24.3 mg, 36.7% yield).

reactant | Iodomethane | 0.11 mmol, 7.1 μl | IC | CH3I
reactant | ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate | 0.11 mmol, 50 mg | COC1=CC=C(C=N1)C(C(O[C@H]1CN2CCC1CC2)=O)NC=2C=C(C(=O)OCC)C=CC2 | C24H29N3O5
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-methyl-1-azoniabicyclo[2.2.2]octane iodide | 24.3 mg, 36.7% yield | [I-].C(C)OC(=O)C=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)C)C=2C=NC(=CC2)OC | InChI=1S/C25H32N3O5.HI/c1-4-32-24(29)18-6-5-7-20(14-18)27-23(19-8-9-22(31-3)26-15-19)25(30)33-21-16-28(2)12-10-17(21)11-13-28;/h5-9,14-15,17,21,23,27H,4,10-13,16H2,1-3H3;1H/q+1;/p-1/t17?,21-,23?,28?;/m0./s1
